US06521658B1
benzyl (bis(2-methoxyethyl)amino)acetate
A solution of benzyl bromoacetate (28.9 g; 96.7 mmol) in dichloromethane (100 mL) at room temperature was treated with 2-methoxy-N-(2-methoxyethyl)ethanamine (40.6 g; 305 mmol), stirred for 30 minutes, diluted with dichloromethane, washed sequentially with saturated NH4Cl, water, and brine, dried (Na2SO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 40% diethyl ether/dichloromethane to provide the desired product.

reactant | benzyl bromoacetate | 96.7 mmol, 28.9 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | 2-methoxy-N-(2-methoxyethyl)ethanamine | 305 mmol, 40.6 g | COCCNCCOC | C6H15NO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | benzyl (bis(2-methoxyethyl)amino)acetate | COCCN(CCOC)CC(=O)OCC1=CC=CC=C1 | C15H23NO4
